US06355636B1
2-(3-Morpholin-4-yl-propoxy)-5-nitropyridine
To a cooled (0° C., ice bath) suspension of NaH (0.96 g, 20 mmol) in anhydrous tetrahydrofuran (100 ml) was added 3-morpholin-propanol (2.9 g, 20 mmol) under argon. This solution was stirred for an additional 1 hr. A solution of 2-chloro-5-nitropyridine (3.2 g, 20 mmol) in tetrahydrofuran (20 ml) was added all at once, and the resulting mixture was heated at reflux for 5 hrs under argon. After cooling, the solvent was removed by rotary evaporation, and the residue was dissolved in ethyl acetate. The ethyl acetate layer was washed (brine), dried (Na2SO4) and concentrated to dryness. The residue was chromatographed (flash column, silica gel, 10% ether in CH2Cl2) to give the title compound. mass spectrum (electrospray, m/e): 267.9 (M+H); IR cm-1: 2955, 1603, 1579, 1515; H-NMR δ(CDCl3): 1.95-2.05 (2H, m), 2.46-2.54 (6H, m), 3.71-3.74 (4H, m), 4.489 (2H, t), 6.812 (1H, d, C3-H), 8.49 (1H, dd, C4-H), 9.065 (1H, d, C5-H).

reactant | NaH | 20 mmol, 0.96 g | [H-].[Na+]
reactant | 3-morpholin-propanol | 20 mmol, 2.9 g | N1C(COCC1)CCCO | C7H15NO2
reactant | 2-chloro-5-nitropyridine | 20 mmol, 3.2 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(3-Morpholin-4-yl-propoxy)-5-nitropyridine | N1(CCOCC1)CCCOC1=NC=C(C=C1)[N+](=O)[O-] | C12H17N3O4
